US07754745B2
(3S)-3-(2-Bromo-4-fluorophenoxy)pyrrolidine hydrochloride
The title compound was prepared in the same manner as described for (3S)-3-[2-(trifluoromethyl)phenoxy]pyrrolidine hydrochloride from tert-butyl (3R)-3-hydroxypyrrolidine-1-carboxylate and 2-bromo-4-fluorophenol. 1H NMR (300 MHz, DMSO-d6): δ 7.62 (m, 1H), 7.32 (m, 1H), 7.13 (m, 1H), 5.31 (s, 1H), 3.60 (m, 1H), 3.32 (m, 3H), 2.12 (m, 2H).

reactant | (3S)-3-[2-(trifluoromethyl)phenoxy]pyrrolidine hydrochloride | Cl.FC(C1=C(O[C@@H]2CNCC2)C=CC=C1)(F)F
reactant | tert-butyl (3R)-3-hydroxypyrrolidine-1-carboxylate | O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | 2-bromo-4-fluorophenol | BrC1=C(C=CC(=C1)F)O | C6H4BrFO
product | (3S)-3-(2-Bromo-4-fluorophenoxy)pyrrolidine hydrochloride | Cl.BrC1=C(O[C@@H]2CNCC2)C=CC(=C1)F | InChI=1S/C10H11BrFNO.ClH/c11-9-5-7(12)1-2-10(9)14-8-3-4-13-6-8;/h1-2,5,8,13H,3-4,6H2;1H/t8-;/m0./s1
